US05175162
To a solution of 0.6 g of 9-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one in 15 ml of N,N-dimethylformamide is added 0.11 g of 60% sodium hydride with stirring under ice-cooling and the mixture is stirred for 10 minutes at room temperature. To the mixture is added 0.39 g of methyl iodide, and the mixture is further stirred for 20 minutes and then poured into ice-cold water. The precipitated crystals are collected by filtration, washed with water and recrystallized from ethanol to give 0.3 g of 9-ethyl-2-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 168°-170° C.

reactant | 9-ethyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 0.6 g | C(C)C1=CC2=C(SCCC=3C2=NNC(C3)=O)S1 | C12H12N2OS2
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | methyl iodide | 0.39 g | CI | CH3I
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 9-ethyl-2-methyl-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 0.3 g | C(C)C1=CC2=C(SCCC=3C2=NN(C(C3)=O)C)S1 | C13H14N2OS2
